US08912181B2
A suspension of 2-bromoaniline (20.9 g) and 5-(methoxymethylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (22.6 g) in isopropanol (240 ml) was heated to reflux for 1 hour. After cooling, the deposit was filtrated to obtain 5-((2-bromophenylamino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (34.8 g). A suspension of the obtained 5-((2-bromophenylamino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (10.8 g) in Dowtherm (100 ml) was heated at 210° C. for 1 hour. After cooling, hexane (100 ml) was added to the reaction solution. The deposit was filtrated to obtain 8-bromoquinolin-4(1H)-one (6.3 g). 4-Chloro-8-(4-(1-methyl-1H-pyrazol-4-yl)-1H-imidazol-1-yl)quinoline was obtained according to Example 3(2) using the obtained 8-bromoquinolin-4(1H)-one instead of compound (3a). Compound (130) was obtained as a pale yellow solid (yield based on 6 steps: 3.4%) according to Example 3(3) using 3-(tert-butylamino)-4-cyanophenylboronic acid pinacol ester instead of 4-cyano-3-(ethylamino)phenylboronic acid pinacol ester.

reactant | 5-((2-bromophenylamino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 10.8 g | BrC1=C(C=CC=C1)NC=C1C(OC(OC1=O)(C)C)=O | C13H12BrNO4
reactant | hexane | 100 ml | CCCCCC | C6H14
solvent | Dowtherm | 100 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 8-bromoquinolin-4(1H)-one | 6.3 g | BrC=1C=CC=C2C(C=CNC12)=O | C9H6BrNO
